US05580870
Using an analogous procedure to that described in Example 5, 4-chloro-6-nitroquinazoline was reacted with 5-aminoindole to give 4-(5-indolylamino)-6-nitroquinazoline hydrochloride in 53% yield, m.p. 300° C.;

reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | 4-(5-indolylamino)-6-nitroquinazoline hydrochloride | 53% yield | Cl.N1C=CC2=CC(=CC=C12)NC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | InChI=1S/C16H11N5O2.ClH/c22-21(23)12-2-4-15-13(8-12)16(19-9-18-15)20-11-1-3-14-10(7-11)5-6-17-14;/h1-9,17H,(H,18,19,20);1H
